US07728030B2
4-hydrazinylbenzoic acid (1.54 g, 10 mmol), 2-fluoro-5-iodobenzaldehyde (2.52 g, 10 mmol) and caesium carbonate (3.27 g, 10 mmol) was stirred in DMF (10 mL) at r.t. for 70 min. Water (40 mL) was then added and the clear solution was acidified with aqueous HCl (1.7 M). The light yellow precipitate that formed was collected by filtration, washed with water and dried in vacuo to give 4-(2-(2-fluoro-5-iodobenzylidene)hydrazinyl)benzoic acid (3.77 g, 98%)

reactant | 4-hydrazinylbenzoic acid | 10 mmol, 1.54 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | 2-fluoro-5-iodobenzaldehyde | 10 mmol, 2.52 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | caesium carbonate | 10 mmol, 3.27 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1.7 M | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 40 mL | O | H2O
product | 4-(2-(2-fluoro-5-iodobenzylidene)hydrazinyl)benzoic acid | 3.77 g, 98% | FC1=C(C=NNC2=CC=C(C(=O)O)C=C2)C=C(C=C1)I | C14H10FIN2O2
